2181-10-15 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2181-10-14**] 09:11 AM
   rt upper quadrant
 URINE CULTURE - At [**2181-10-15**] 06:30 AM
   - high central venous sat
   - gave fluids for low BP's, still anuric; currently on two pressors
   (can add levophed as third pressor)
   - made DNR/DNI chemical code only
   - Got records from OSH re: previous CT abdomen (PO contrast)- nothing
   acute (records in chart)
   - has history of zosyn use at OSH (along with levaquin; full med list
   in chart). ? of intrahepatic cholestasis [**2-26**] drug effect as cause for
   obstructive picture
   - Echo not done today
   - RUQ u/s- fatty liver
   - hepatology recs: too sick for MRCP or liver biopsy, checking
   hepatitis A, B, C, CMV, iron, ferritin, other liver serologies
   -put on ARDsnet protocol based on CXR
   -trending DIC labs now
   - too unstable for CT abdomen overnight (wanted to get to evaluate for
   bowel origin)
   -[**1-28**] GPC's in blood (already on vanco)
   -Chronic intrahepatic cholestasis
 Drugs causing chronic intrahepatic
   cholestasis may produce a syndrome resembling primary biliary cirrhosis
   [36,41]. However, unlike primary biliary cirrhosis, serum
   antimitochondrial antibodies are usually not seen. Chronic cholestasis
   may evolve from acute drug-induced cholestasis. Most cases resolve with
   withdrawal of the offending [**Doctor Last Name **], but often require several months.
   However, some patients develop a vanishing bile duct syndrome and liver
   failure [67,68]. Drugs which have been reported to cause chronic
   intrahepatic cholestasis include amitriptyline, ampicillin,
   amoxicillin-clavulanate, carbamazepine, chlorpromazine, cyproheptadine,
   erythromycin estolate, haloperidol, imipramine, organic arsenicals,
   prochlorperazine, phenytoin, trimethoprim-sulfamethoxazole,
   thiabendazole, tolbutamide, tetracycline, oral contraceptives, and
   anabolic steroids [69-71]. Those drugs implicated in chronic
   intrahepatic cholestasis and also ductopenia include carbamazepine,
   chlorpromazine, chlorpropamide, co-trimoxazole, haloperidol,
   thiabendazole, and tricyclic antidepressants.
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2181-10-14**] 08:45 AM
   Vancomycin - [**2181-10-14**] 08:00 PM
   Metronidazole - [**2181-10-15**] 12:01 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Vasopressin - 2.4 units/hour
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2181-10-14**] 11:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-15**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.4
C (97.6
   HR: 92 (92 - 126) bpm
   BP: 90/60(71) {82/51(64) - 128/85(102)} mmHg
   RR: 28 (20 - 32) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
    CVP: 12 (6 - 31)mmHg
   Mixed Venous O2% Sat: 75 - 75
   Total In:
                                                                  5,626 mL
                                                                    895 mL
   PO:
   TF:
   IVF:
                                                                  4,536 mL
                                                                    365 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    164 mL
                                                                      6 mL
   Urine:
                                                                     14 mL
                                                                      6 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  5,462 mL
                                                                    889 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 95%
   ABG: 7.40/26/76.[**Numeric Identifier 126**]/15/-6
   Ve: 10 L/min
   PaO2 / FiO2: 152
   Physical Examination
   General Appearance: sedated
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: L>R)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   300 K/uL
   10.2 g/dL
   200 mg/dL
   1.8 mg/dL
   15 mEq/L
   3.3 mEq/L
   45 mg/dL
   105 mEq/L
   138 mEq/L
   31.0 %
   17.1 K/uL
        [image002.jpg]
                             [**2181-10-14**]  03:49 AM
                             [**2181-10-14**]  10:31 AM
                             [**2181-10-14**]  02:05 PM
                             [**2181-10-14**]  06:12 PM
                             [**2181-10-14**]  09:41 PM
                             [**2181-10-14**]  10:20 PM
                             [**2181-10-15**]  01:15 AM
                             [**2181-10-15**]  03:58 AM
                             [**2181-10-15**]  03:59 AM
                             [**2181-10-15**]  06:32 AM
   WBC
   16.0
   17.1
   Hct
   33.1
   31.0
   Plt
   319
   300
   Cr
   1.8
   1.8
   TCO2
   9
   9
   12
   15
   16
   15
   15
   17
   Glucose
   234
   200
   Other labs: PT / PTT / INR:33.3/46.3/3.4, CK / CKMB /
   Troponin-T:51//0.03, ALT / AST:2497/6244, Alk Phos / T Bili:1053/18.5,
   Amylase / Lipase:36/37, Differential-Neuts:90.0 %, Band:2.0 %,
   Lymph:6.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:466 mg/dL, Lactic
   Acid:3.6 mmol/L, Albumin:2.0 g/dL, LDH:4500 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.8 mg/dL, PO4:5.1 mg/dL
   Fluid analysis / Other labs: lactate=3.6
   IgG=909
   Imaging: ct abd/pelvis (wet read)
   moderate bilateral pleural effusions w/ right greater than left
   underlying
   atelectasis/consolidation. ascites. cholecystectomy clips. fluid or
   cystic
   lesion associated w/ pancreas, not well characterized on this
   noncontrast
   study (2:33, 301b:38). no free air, extraluminal contrast or
   pneumatosis. no bowel obstruction. fluid/stranding about tail of
   pancreas and thickening of anterior renal and left lateroconal fascia
   could indicate pancreatitis or may be related to ascites, anasarca.
   liver/gallbladder us
   Bilateral pleural effusions. Ascites.
   No intrahepatic or extrahepatic biliary ductal dilatation.
   Echogenic liver consistent with fatty infiltration. Other forms of
   liver
   disease and more advanced liver disease including significant hepatic
   fibrosis/cirrhosis cannot be excluded on this study.
   Microbiology: [**2181-10-15**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2181-10-15**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2181-10-14**]  Blood (CMV AB) CMV IgG ANTIBODY-PENDING; CMV IgM
   ANTIBODY-PENDING INPATIENT
   [**2181-10-13**]  BRONCHOALVEOLAR LAVAGE GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-PRELIMINARY INPATIENT
   [**2181-10-13**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2181-10-13**]  BLOOD CULTURE Blood Culture, Routine-PRELIMINARY {GRAM
   POSITIVE COCCUS(COCCI)}; Aerobic Bottle Gram Stain-FINAL; Anaerobic
   Bottle Gram Stain-FINAL INPATIENT
   [**2181-10-13**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   [**2181-10-13**]  URINE URINE CULTURE-PRELIMINARY {GRAM NEGATIVE ROD(S)}
   INPATIENT
   urine cx:
      URINE CULTURE (Preliminary):
         GRAM NEGATIVE ROD(S).    >100,000 ORGANISMS/ML..
            ? OF TWO COLONIAL MORPHOLOGIES.
   blood cx:
      Blood Culture, Routine (Preliminary):
         GRAM POSITIVE COCCUS(COCCI).    IN CLUSTERS.
      Aerobic Bottle Gram Stain (Final [**2181-10-14**]):
         GRAM POSITIVE COCCI IN CLUSTERS.
         REPORTED BY PHONE TO DR [**First Name (STitle) **] ([**Numeric Identifier 10163**]) [**2181-10-14**] AT 2:30PM.
      Anaerobic Bottle Gram Stain (Final [**2181-10-14**]):
         GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS.
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ACIDOSIS, METABOLIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPOTHERMIA
 .H/O ACIDOSIS, RESPIRATORY
 .H/O LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
   This is an 81 yo female with progressive painless jaundice over the
   past two weeks now presenting with hypotension and hypothermia likely
   representing sepsis.
   .
   # Septic Shock: Pt presenting with hypotension, tachycardia and
   leukocytosis of [**Numeric Identifier 5728**] with bandemia. Pressures improved with NS bolus
   though MAPs remain in the mid-50's. Possible infectious sources include
   urosepsis especially given urine cx positive for ESBL E.Coli which she
   was not receiving abx. She Would certainly also consider cholangitis
   given cholestatic picture, but too unstable for ERCP. CXR with patchy
   opacity in the left mid lung may indicate a possible PNA. Also with
   GPC's in blood, raising concern for line infection.
   - continue Meropenem, Flagyl and Vanco; has been afebrile since.
   - Goal MAPS >65; currently on 2 pressors, able to wean phenylephrine
   when pH corrected
   - Cont IVF boluses for CVP 15-20
   - Blood and urine cxs- pending speciation of GPC in blood and GNR in
   urine
   - daily surveillance cultures; now with GPC in [**2-28**] bottles, would
   consider pulling lines...
   - repeat RUQ u/s without any ductal abnormalities; just fatty liver. CT
   with PO contrast with no acute abdominal abnormalities
   - Follow CXR
   - lactate trending down from 5.8-->3.4; due to infection vs.
   hypotension (had SBP's in 70's to 80's at some points on admission).
   #Hypoxic Respiratory failure - Patient with remarkable effusion;
   currently on ARDs net; ? PNA as component
    -continue AC vent
   - f/u BAL
   -hold on tap of effusions
   -ARDS vent with Vt 300cc.
   -ABG stable, corrected with amps of bicarb
   .
   # Metabolic Acidosis: Likely due to lactic acidosis evolving in these
   septic patient. Lactate trending down now with broad spectrum
   antibiotics and adequate MAPs; received 6amps total of bicarb yesterday
   - cont trend ABG
   - cont trend lactate
   - continue to maintain pH 7.3 for ideal pressor action
   - empiric ABX
   .
   #  Elevated LFTs/Cholestasis: Given recent abd ct and u/s with normal
   appearing biliary tree, pancreas and liver seems more likely that these
   LFT abnormalities represent intrhepatic biliary obstruction or
   intrahepatic etiology (primary biliary cirrhosis, drug induced
   cholestasis, infiltrative process, neoplasm(cholangiocarcinoma,
   lymphoma). For drug induced cholestasis, possible culprits include
   zosyn, levaquin (?), remeron (?)
   - appreciate liver recs
   - likely component of shock liver superimposed
   -consider d/c'ing remeron
   -f/u hepatitis serologies, AMA, anti-Sm, [**Doctor First Name **]
   -continue to trend coags and DIC labs
   .
   # Acute renal failure- likely hemodynamic in origin
   -renally dose all meds
   -f/u urine lytes this AM (previously unable to produce urine)
   .
   # Bilateral Pleural Effusions: Left sided pleural effusion sig
   increased compared to last CXR from [**10-12**] at OSH. Per records these have
   been attributed to heart failure and have been transudative. Likely
   these effusions contributing to hypoxia.
   - cont to follow on CXR
   - thoracentesis if hypoxia worsens
   .
   #  Atrial Fibrillation: Pt currently in afib with RVR. Will hold off on
   giving nodal blocker at this time given tenous nature of BP. Per OSH
   records coumadin being held in anticipation of possible procedure.
   - hold metoprolol for now
   - hold coumadin given coagulopathy
   - attempt to rate control if BP stabilizes
   .
   # Diastolic Heart Failure: Holding BB and lasix given hemodynamic
   instability.
   .
   # ? GERD: cont PPI
   ICU Care
   Nutrition:
   Glycemic Control: Blood sugar well controlled
   Lines:
   20 Gauge - [**2181-10-13**] 07:42 PM
   Multi Lumen - [**2181-10-13**] 08:35 PM
   Arterial Line - [**2181-10-13**] 09:43 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed
   HCP: Daughter: [**Name (NI) 9831**]: (H)[**Telephone/Fax (1) 10126**], (C)[**Telephone/Fax (1) 10127**] and son [**Name (NI) **]
   [**Name (NI) 36**] status: Full code
   Disposition: ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 81F AF, dCHF, prior chole, recent ESBL klebs
   UTI p/w initial problem of obstructive LFTs / intrahepatic cholestasis
   at [**Hospital3 **]. On arrival to [**Hospital 19**] medical floor, found to be
   hypotensive, hypothermic and hypoxemic with metabolic acidosis on
   arrival. Intuibated, lined, bronched on arrival to MICU, now on broad
   spectrum antibiotics and max neo / VPA. Seen by ERCP - procedure
   deferred.
   Exam notable for Tm 99.3 BP 96/60 HR 110 RR 20 with sat on 450x20 5 0.5
   27/22 7.22/21/149. 3+ edema TBB +8L/LOS CVP 16. Labs notable for WBC
   16K, HCT 28, K+ 4, Cr 1.2, lactate 5.3, AP 1090, TB 16.3, ALT 609, AST
   1215, LDH 1277. CXR with R effusion, LLL ASD.
   81F smoldering intrahepatic cholestatic picture now p/w likely
   refractory septic shock d/t urosepsis and/or biliary sepsis c/b MOSF.
   Agree with plan to manage shock with ongoing IVF resuscitation, follow
   CVO2, check echo, and continue IVF boluses for CVP >16-18 range. Will
   check repeat RUQ USG, ERCP following, while continuing vanco / [**Last Name (un) 614**] /
   flagyl / HC. Suspect met acidosis is combined effect of ARF and
   elevated lactate, though ischemic bowel is a concern as a primary or
   secondary mechanism
 I- abd CT when stable. LFT abnormalities
   suggestive of drug-induced intrahepatic disease, await anti-SM Ab and
   liver eval; other infiltrative processes including PBC / PSC / lymphoma
   / amyloidosis possible but less likely. Respiratory failure  - continue
   AC vent, f/u BAL, hold on tap of effusions, transition to ARDS vent
   with Vt 300cc. ARF likely hemodynamic - RD meds, check lytes. NPO for
   now, HSC, [**Last Name (LF) 1618**], [**First Name3 (LF) **] line, full. Will meet with family today. Remainder
   of plan as outlined above.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-10-13**] 07:42 PM
   Multi Lumen - [**2181-10-13**] 08:35 PM
   Arterial Line - [**2181-10-13**] 09:43 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2181-10-16 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - transthoracic echo performed: suboptimal image quality, normal LV
   cavity size with moderate global hypokinesis (LVEF 30-35 %) c/w diffuse
   process, moderate MR, moderate to severe TR, pulmonary a. systolic HTN
   - call renal for HD/CVVH consult pending d/w Dr. [**Last Name (STitle) 775**] and family
   - Doppler US of PV and HV per hepatology: results pending
   - ERCP consult: recommends MRCP
   - Troponin bump to 0.11 x 3 from initial baseline of 0.02 at admission
   - Multiple boluses with albumin for hypotension continued on 2 pressors
   - UTI and urine cultures from [**Hospital1 608**] on [**10-11**] and [**10-15**]
 E. Coli and
   Klebsiella
   sensitive to ertapenum and imipenum
   -need to call wound care consult in the am
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2181-10-14**] 08:45 AM
   Vancomycin - [**2181-10-14**] 08:00 PM
   Metronidazole - [**2181-10-16**] 01:21 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2181-10-16**] 12:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-16**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 121 (97 - 128) bpm
   BP: 99/73(83) {81/49(61) - 118/76(91)} mmHg
   RR: 28 (24 - 28) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
    CVP: 11 (6 - 15)mmHg
   Total In:
                                                                  1,774 mL
                                                                  1,098 mL
   PO:
   TF:
   IVF:
                                                                  1,214 mL
                                                                    838 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                     19 mL
                                                                      0 mL
   Urine:
                                                                     19 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,755 mL
                                                                  1,098 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 71
   PIP: 20 cmH2O
   Plateau: 19 cmH2O
   SpO2: 95%
   ABG: 7.35/29/75/15/-7
   Ve: 8.2 L/min
   PaO2 / FiO2: 150
   Physical Examination
   General: NAD, sedated and intubated, bare hugger in place
   HEENT: jaundice, scleral icterus, PERRL
   Heart: irregular, tachycardic, no MRG
   Lungs: CTA anterior fields, no WRR
   Abdomen: NTND, ABS, no palpable masses
   Extremities: WWP, CR < 2s
   Labs / Radiology
   334 K/uL
   11.7 g/dL
   113 mg/dL
   2.8 mg/dL
   15 mEq/L
   4.3 mEq/L
   51 mg/dL
   106 mEq/L
   137 mEq/L
   36.3 %
   20.7 K/uL
        [image002.jpg]
                             [**2181-10-15**]  03:59 AM
                             [**2181-10-15**]  06:32 AM
                             [**2181-10-15**]  08:43 AM
                             [**2181-10-15**]  12:41 PM
                             [**2181-10-15**]  03:16 PM
                             [**2181-10-15**]  03:42 PM
                             [**2181-10-15**]  06:31 PM
                             [**2181-10-15**]  11:27 PM
                             [**2181-10-16**]  02:45 AM
                             [**2181-10-16**]  02:53 AM
   WBC
   17.1
   20.7
   Hct
   31.0
   36.3
   Plt
   300
   334
   Cr
   1.8
   2.4
   2.8
   TropT
   0.11
   0.11
   0.11
   TCO2
   17
   17
   17
   17
   17
   16
   17
   Glucose
   200
   133
   118
   113
   Other labs: PT / PTT / INR:37.3/51.0/3.9, CK / CKMB /
   Troponin-T:100/5/0.11, ALT / AST:1862/2292, Alk Phos / T
   Bili:1043/18.0, Amylase / Lipase:243/383, Differential-Neuts:90.0 %,
   Band:2.0 %, Lymph:6.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:514 mg/dL,
   Lactic Acid:3.0 mmol/L, Albumin:2.0 g/dL, LDH:849 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.6 mg/dL, PO4:6.3 mg/dL
   Micro:
   - urine culture [**10-13**]
 e. coli
   - MRSA [**10-13**]
 pos.
   - BAL [**10-13**]
 staph aureus
   - blood culture [**10-14**]
 coagulase neg. staph
   - blood culture [**10-15**]
 [**10-16**]
 pending
   - urine culture [**10-15**]
 pending
   Imaging:
   - CT Abd-Pelvis
 moderate bilateral pleural effusion with underlying
   consolidation / atelectasis, fluid stranding about pancreatic tail c/w
   pancreatitis, ascites or anasarca
   - CXR
 small bilateral pleural effusion right > left, heterogenous
   opacification of left lower lobe concerning for pneumonia and
   progressing since [**10-14**]
   Assessment and Plan
   81 yof with progressive painless jaundice x 2 weeks admitted with
   hypotension and hypothermia likely representing sepsis.
   # Septic Shock: continued hypotension on pressors (vasopressin and
   phenylephrine), possible infectious sources include urosepsis,
   pneumonia, cholangitis, line infection
    - continue broad spectrum meropenum and vancomycin considering e.coli
   and klebsiella, MRSA + and s. aureus on BAL and discontinue flagyl
    - continue pressors to maintain MAP > 65
    - f/u surveillance cultures and sensitivities
    - consider re-siting lines if additional surveillance blood Cx are
   pos.
   - f/u RUQ Doppler of PV and HV
   - continue to trend lacate now 3.0 from peak of 5.8 on [**10-14**]
   #Hypoxic: patient with large effusion and likely underlying pneumonia
    -continue AC vent
 attempt transition to pressure support with goal
   TVol 300
   - f/u sensitivies of S. aureus + BAL, already being treated with
   vancomycin
   - continue to follow ABG
   # Metabolic Acidosis: Likely due to lactic acidosis evolving in septic
   patient. Lactate trending down now with broad spectrum antibiotics and
   adequate MAPs
   - continue to trend ABG
   - continue to trend lactate
   - continue pressors to improve distal perfusion
   #  Elevated LFT
s:  recent abdominal CT and US shows normal appearing
   biliary tree but would require further evaluation with MRCP / ERCP to
   ensure no obstruction
 LFT
s continue to remain elevated likely
   representing component of superimposed shock liver given poor distal
   perfusion.
   - liver recs: MRCP
 patient unable to undergo this exam as she has a
   pacer
   - f/u hepatitis serologies, AMA, anti-Sm, [**Doctor First Name **]
 HBV neg., HAV neg., HCV
   neg., [**Doctor First Name **] neg., AMA pending
   - coags continue to trend up with stable fibrinogen, HCT and platelets
 likely representing hepatic injury
   # Acute renal failure- likely hemodynamic in origin do to poor
   perfusion
   - renally dose all meds
   - f/u urine lytes
 urine OSM 277, Cr 49, Urea 68, Na 85
   - consider HD vs. CVVH given anuric renal failure, will f/u renal
   consult
   # Bilateral Pleural Effusions: Left sided pleural effusion sig
   increased compared to last CXR from [**10-12**] at OSH. Per records these have
   been attributed to heart failure and have been transudative. Likely
   these effusions contributing to hypoxia.
   - cont to follow on CXR
   - consider therapeutic thoracentesis if hypoxia continues
   #  Atrial Fibrillation: Pt currently in afib with RVR. Will hold off on
   giving nodal blocker at this time given tenous nature of BP.
   - hold metoprolol for now given hypotension
   - hold coumadin given coagulopathy
   - attempt to rate control if BP stabilizes with digoxin to improve
   atrial kick
   # Diastolic Heart Failure: Holding BB and lasix given hemodynamic
   instability.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-10-13**] 05:24 PM
   Multi Lumen - [**2181-10-13**] 08:35 PM
   Arterial Line - [**2181-10-13**] 09:43 PM
   Prophylaxis:
   DVT:  [**Last Name (LF) **], [**First Name3 (LF) **]
   Stress ulcer: lansoprazole
   VAP:  HOB elevation
   Comments:
   Communication:  Comments:
   Code status: chemical  code
   Disposition: ICU

2181-10-17 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Nutrition Consult: continue current tube feeds and decrease goal rate
   to 30 cc/hr
   - Renal consult: patient is not a good candidate for CVVH given poor
   prognosis, multiple critical issues and pressor requirements
   - Flagyl discontinued
   -BAL grew MRSA
   -blood cx coag negative staph
   Patient unable to provide history: Sedated
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2181-10-14**] 08:45 AM
   Vancomycin - [**2181-10-14**] 08:00 PM
   Metronidazole - [**2181-10-16**] 08:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Phenylephrine - 0.6 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2181-10-17**] 03:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-17**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 133 (112 - 133) bpm
   BP: 98/65(77) {81/59(67) - 126/85(98)} mmHg
   RR: 15 (14 - 28) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
    CVP: 11 (5 - 21)mmHg
   Total In:
                                                                  1,966 mL
                                                                    340 mL
   PO:
   TF:
                                                                    150 mL
                                                                    211 mL
   IVF:
                                                                  1,496 mL
                                                                    129 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                     55 mL
                                                                    390 mL
   Urine:
                                                                     55 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
                                                                     70 mL
   Balance:
                                                                  1,911 mL
                                                                    -50 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 412 (410 - 492) mL
   PS : 14 cmH2O
   RR (Set): 28
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 70
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   SpO2: 96%
   ABG: 7.32/28/106/15/-10
   Ve: 5.1 L/min
   PaO2 / FiO2: 212
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: icteric
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: No(t) Normal), (S2: No(t) Normal), irregularly
   irregular, tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, No(t) Bowel sounds present,
   hypoactive bowel sounds
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Not assessed, Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   159 K/uL
   9.8 g/dL
   152 mg/dL
   3.1 mg/dL
   15 mEq/L
   3.9 mEq/L
   57 mg/dL
   107 mEq/L
   137 mEq/L
   29.9 %
   18.7 K/uL
        [image002.jpg]
                             [**2181-10-15**]  12:41 PM
                             [**2181-10-15**]  03:16 PM
                             [**2181-10-15**]  03:42 PM
                             [**2181-10-15**]  06:31 PM
                             [**2181-10-15**]  11:27 PM
                             [**2181-10-16**]  02:45 AM
                             [**2181-10-16**]  02:53 AM
                             [**2181-10-16**]  01:10 PM
                             [**2181-10-16**]  06:06 PM
                             [**2181-10-17**]  03:56 AM
   WBC
   20.7
   18.7
   Hct
   36.3
   29.9
   Plt
   334
   159
   Cr
   2.4
   2.8
   3.1
   TropT
   0.11
   0.11
   TCO2
   17
   17
   17
   16
   17
   15
   15
   Glucose
   133
   118
   113
   152
   Other labs: PT / PTT / INR:37.9/51.1/3.9, CK / CKMB /
   Troponin-T:100/5/0.11, ALT / AST:912/880, Alk Phos / T Bili:693/20.2,
   Amylase / Lipase:243/383, Differential-Neuts:90.0 %, Band:2.0 %,
   Lymph:6.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:514 mg/dL, Lactic
   Acid:2.8 mmol/L, Albumin:2.0 g/dL, LDH:486 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.6 mg/dL, PO4:6.4 mg/dL
   Imaging: U/S liver/gallbladder:
   IMPRESSION:
   Patent flow identified within the portal vein and hepatic veins on
   doppler
   son[**Name (NI) **].
   CXR ([**10-16**]):
   In comparison with the study of [**10-15**], there is continued
   enlargement of the cardiac silhouette with bibasilar opacification
   consistent
   with volume loss and pleural effusions. Patchy opacification in the
   left mid
   lung zone is again seen, worrisome for pneumonia. Monitoring support
   devices
   remain in place.
   Microbiology:    URINE CULTURE (Preliminary):
         ESCHERICHIA COLI.    >100,000 ORGANISMS/ML..
            PRESUMPTIVE IDENTIFICATION OF TWO COLONIAL MORPHOLOGIES.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                ESCHERICHIA COLI
                                |
   AMPICILLIN------------  =>32 R
   AMPICILLIN/SULBACTAM--  =>32 R
   CEFAZOLIN-------------    16 I
   CEFEPIME--------------   <=1 S
   CEFTAZIDIME-----------   <=1 S
   CEFTRIAXONE-----------   <=1 S
   CEFUROXIME------------    16 I
   CIPROFLOXACIN---------   =>4 R
   GENTAMICIN------------   <=1 S
   MEROPENEM-------------<=0.25 S
   NITROFURANTOIN--------  <=16 S
   PIPERACILLIN---------- =>128 R
   PIPERACILLIN/TAZO-----     8 S
   TOBRAMYCIN------------   <=1 S
   TRIMETHOPRIM/SULFA----   <=1 S
   Blood culture:
         STAPHYLOCOCCUS, COAGULASE NEGATIVE.
   _________________________________________________________
                                STAPHYLOCOCCUS, COAGULASE NEGATIVE
                                |
   ERYTHROMYCIN----------   =>8 R
   GENTAMICIN------------ <=0.5 S
   LEVOFLOXACIN----------   =>8 R
   OXACILLIN-------------<=0.25 S
   TETRACYCLINE----------     4 S
   VANCOMYCIN------------   <=1 S
   BAL culture:
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                STAPH AUREUS COAG +
                                |
   ERYTHROMYCIN----------   =>8 R
   GENTAMICIN------------ <=0.5 S
   LEVOFLOXACIN----------   =>8 R
   OXACILLIN-------------   =>4 R
   RIFAMPIN-------------- <=0.5 S
   TETRACYCLINE----------   <=1 S
   TRIMETHOPRIM/SULFA---- <=0.5 S
   VANCOMYCIN------------   <=1 S
   [**2181-10-16**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2181-10-15**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2181-10-15**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2181-10-15**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2181-10-14**]  Blood (CMV AB) CMV IgG ANTIBODY-FINAL; CMV IgM
   ANTIBODY-FINAL INPATIENT
   [**2181-10-13**]  BRONCHOALVEOLAR LAVAGE GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-FINAL {STAPH AUREUS COAG +} INPATIENT
   [**2181-10-13**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2181-10-13**]  BLOOD CULTURE Blood Culture, Routine-PRELIMINARY
   {STAPHYLOCOCCUS, COAGULASE NEGATIVE, STAPHYLOCOCCUS, COAGULASE
   NEGATIVE}; Aerobic Bottle Gram Stain-FINAL; Anaerobic Bottle Gram
   Stain-FINAL INPATIENT
   [**2181-10-13**]  MRSA SCREEN MRSA SCREEN-FINAL {POSITIVE FOR METHICILLIN
   RESISTANT STAPH AUREUS} INPATIENT
   [**2181-10-13**]  URINE URINE CULTURE-PRELIMINARY {ESCHERICHIA COLI}
   INPATIENT
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ACIDOSIS, METABOLIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPOTHERMIA
 .H/O ACIDOSIS, RESPIRATORY
 .H/O LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
   Assessment and Plan
   81 yof with progressive painless jaundice x 2 weeks admitted with
   hypotension and hypothermia likely representing sepsis.
   # Shock: likely SIRS, continued hypotension on pressors (vasopressin
   and phenylephrine), infectious source likely MRSA pneumonia vs E. coli
   urosepsis
    - currently on meropenem and vancomycin. Vancomycin seems appropriate
   for MRSA (day 1 = [**10-14**]). E.coli in urine most sensitive to [**Last Name (un) 614**], also
   quite sensitive to ceftriaxone and ceftazidime. Could consider
   switching to ceftriaxone.
    - continue pressors to maintain MAP > 65
    - f/u surveillance cultures and sensitivities
    - consider re-siting lines if additional surveillance blood Cx are
   pos. Blood cultures with coag negative staph are likely contaminant.
   - continue to trend lacate now 2.8 from peak of 5.8 on [**10-14**]
   #Hypoxic Respiratory failure: patient with large effusion and
   underlying MRSA pneumonia
    -continue AC vent
 attempt transition to pressure support with goal
   TVol 300
   - continue vancomycin for MRSA pneumonia
   #  Elevated LFT
s:  recent abdominal CT and US shows normal appearing
   biliary tree but would require further evaluation with MRCP / ERCP to
   ensure no obstruction
 LFT
s continue to remain elevated likely
   representing component of superimposed shock liver given poor distal
   perfusion.
   - liver recs: MRCP
 patient unable to undergo this exam as she has a
   pacer
   - f/u hepatitis serologies, AMA, anti-Sm, [**Doctor First Name **]
 HBV neg., HAV neg., HCV
   neg., [**Doctor First Name **] neg., AMA pending
   - coags continue to trend up with stable fibrinogen, HCT and platelets
 likely representing hepatic injury
   # Acute renal failure- likely hemodynamic in origin do to poor
   perfusion
   - renally dose all meds
   - as per renal, not a great candidate for CVVH b/c multiple pressors
   and critically ill. Patient had expressed that she would not want to be
   on HD longterm. Will discuss with family option of dialysis, but
   unlikely to be of great utility and unlikely to be a bridge to better
   prognosis.
   # Metabolic Acidosis: Likely due to lactic acidosis evolving in septic
   patient. Lactate trending down now with broad spectrum antibiotics and
   adequate MAPs
   - continue to trend ABG
   - continue to trend lactate
   - continue pressors to improve distal perfusion
   #  Atrial Fibrillation: Pt currently in afib with RVR. Will hold off on
   giving nodal blocker at this time given tenous nature of BP.
   - hold metoprolol for now given hypotension
   - hold coumadin given coagulopathy
   - attempt to rate control if BP stabilizes with digoxin to improve
   atrial kick
   # Diastolic Heart Failure: Holding BB and lasix given hemodynamic
   instability.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2181-10-16**] 01:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-10-13**] 05:24 PM
   Multi Lumen - [**2181-10-13**] 08:35 PM
   Arterial Line - [**2181-10-13**] 09:43 PM
   Prophylaxis:
   DVT: (none- bruising with boots, no heparin from bleeding)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2181-10-18 07:09:00 Physician Resident Progress Note
Chief Complaint: 81 yo female with progressive painless jaundice x two
   weeks now presenting with hypotension and hypothermia likely
   representing sepsis in the setting of MRSA + sputum and E.Coli and
   Enterococcus + urine.
   24 Hour Events:
   - patient loaded with digoxin with level this morning 1.6
   - weened to single pressor, phenylephrine only
   - still waiting to discuss with family CVVH and goals of care
   - vanco level this morning  18.4
   - patient in afib with RVR all morning, given 500 cc bolus with no
   effect
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2181-10-16**] 08:00 AM
   Meropenem - [**2181-10-17**] 10:00 AM
   Infusions:
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-18**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.5
   HR: 116 (99 - 134) bpm
   BP: 90/51(65) {79/47(61) - 122/81(96)} mmHg
   RR: 16 (12 - 20) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
    CVP: 7 (7 - 13)mmHg
   Total In:
                                                                    947 mL
                                                                    304 mL
   PO:
   TF:
                                                                    384 mL
                                                                    198 mL
   IVF:
                                                                    564 mL
                                                                     26 mL
   Blood products:
   Total out:
                                                                    548 mL
                                                                      0 mL
   Urine:
                                                                     68 mL
   NG:
   Stool:
   Drains:
                                                                    110 mL
   Balance:
                                                                    399 mL
                                                                    304 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 449 (306 - 449) mL
   PS : 14 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 68
   PIP: 20 cmH2O
   SpO2: 94%
   ABG: 7.32/31/91/16/-8
   Ve: 8.5 L/min
   PaO2 / FiO2: 182
   Physical Examination
   General: NAD, sedated
   Lungs: CTA anterolateral fields
   Heart: irregular, tachycardic, no MRG
   Abdomen: soft, ND, ABS
   Extremities:  diffuse anasarca, weeping skin, echymosis bil. lower
   ext., WWP
   Labs / Radiology
   153 K/uL
   10.5 g/dL
   205 mg/dL
   3.0 mg/dL
   16 mEq/L
   3.4 mEq/L
   67 mg/dL
   107 mEq/L
   137 mEq/L
   32.1 %
   23.8 K/uL
        [image002.jpg]
                             [**2181-10-15**]  11:27 PM
                             [**2181-10-16**]  02:45 AM
                             [**2181-10-16**]  02:53 AM
                             [**2181-10-16**]  01:10 PM
                             [**2181-10-16**]  06:06 PM
                             [**2181-10-17**]  03:56 AM
                             [**2181-10-17**]  01:44 PM
                             [**2181-10-17**]  03:05 PM
                             [**2181-10-18**]  04:25 AM
                             [**2181-10-18**]  04:53 AM
   WBC
   20.7
   18.7
   23.8
   Hct
   36.3
   29.9
   32.1
   Plt
   [**Telephone/Fax (3) 10255**]
   Cr
   2.8
   3.1
   3.0
   TropT
   0.11
   TCO2
   16
   17
   15
   15
   17
   17
   17
   Glucose
   118
   113
   152
   205
   Other labs: PT / PTT / INR:25.6/41.8/2.5, CK / CKMB /
   Troponin-T:100/5/0.11, ALT / AST:640/567, Alk Phos / T Bili:739/20.6,
   Amylase / Lipase:243/383, Differential-Neuts:90.0 %, Band:2.0 %,
   Lymph:6.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:514 mg/dL, Lactic
   Acid:2.8 mmol/L, Albumin:2.0 g/dL, LDH:491 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.6 mg/dL, PO4:5.1 mg/dL
   Imaging:
   - CXR [**10-17**]: persistent  asymmetric airspace opacification in left
   perihilar region, slightly improved aeration at right base, continued
   bilateral pleural effusions
   Micro:
   - urine [**10-13**]: + E. Coli and Enterococcus
   - BAL [**10-13**]: + MRSA
   - blood [**2094-10-14**]: pending
   - urine [**10-15**]: pending
   Assessment and Plan
   81 yof with progressive painless jaundice x 2 weeks admitted with
   hypotension and hypothermia likely representing sepsis.
   # Shock: continued septic shock requiring pressor (phenylephrine)
   support with MRSA pneumonia vs. urosepsis as infective source.
    - continue meropenem and vancomycin to cover MRSA, E.Coli and
   Enterococcus pending most recent sensitivities
    - continue pressors to maintain MAP > 65
    - continue digoxin 0.0625 mg / day per pharmacy
    - f/u surveillance cultures and sensitivities
    - consider re-siting lines if additional surveillance blood Cx are
   pos. Blood cultures with coag negative staph are likely contaminant.
   #Hypoxic Respiratory failure: patient with large effusion and
   underlying MRSA pneumonia
    - continue pressure support ventilation with goal TVol 300
 RSBI 68
   and FIO2/PaO2 = 182
    - d/w family goals of care, possible CMO with extubation
    - continue vancomycin for MRSA pneumonia
   #  Elevated LFT
s: AST/ALT continue to trend down while AP/LDH and
   TBili continue to remain constant representing intrahepatic cholestasis
   with now resolving component of shock liver
    - continue to trend LFT
s and consider ERCP if patient becomes more
   stable
   # Acute renal failure- likely hemodynamic in origin do to poor
   perfusion
   - renally dose all meds
   - f/u d/w family concerning CVVH and bridge to HD long term
   # Metabolic Acidosis: Likely due to lactic acidosis evolving in septic
   patient. Lactate trending down now with broad spectrum antibiotics and
   adequate MAPs
   - continue to trend ABG
   - continue to trend lactate
   - continue pressors to improve distal perfusion
   #  Atrial Fibrillation: Pt continued in afib with RVR now s/p digoxin
   load
   - continue digoxin 0.0625 daily for afib per pharamcy
   - hold metoprolol for now given continued hypotension
   - continue to trend INR now 2.5
 hold coumadin given coagulopathy but
   may start if INR continues to trend down
   # Diastolic Heart Failure: Holding BB and lasix given hemodynamic
   instability.
   # FEN: holding IVF given anuria with diffuse anasarca, replete
   electrolytes PRN
   ICU Care
   Nutrition:  NovaSource Renal (Full) - [**2181-10-16**] 01:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-10-13**] 05:24 PM
   Multi Lumen - [**2181-10-13**] 08:35 PM
   Arterial Line - [**2181-10-13**] 09:43 PM
   Prophylaxis:
   DVT: (none- bruising with boots, no heparin from bleeding)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Code status: DNR / DNI
   Disposition: ICU
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2181-10-18**] 03:24 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2181-10-13**] 08:35 PM
   Arterial Line - [**2181-10-13**] 09:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2181-10-20 06:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -patient in continued afib with RVR given bolus of fentanyl and then
   fluids with HCO3 for low CVP
   -family discussion choose no CVVH but still NOT CMO
   Patient unable to provide history: Sedated
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2181-10-18**] 08:00 PM
   Meropenem - [**2181-10-19**] 08:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Phenylephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-20**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.4
   HR: 111 (110 - 143) bpm
   BP: 112/60(79) {88/47(58) - 137/84(102)} mmHg
   RR: 23 (19 - 27) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 78 kg (admission): 63.6 kg
   Height: 62 Inch
    CVP: 10 (6 - 14)mmHg
   Total In:
                                                                  1,911 mL
                                                                    375 mL
   PO:
   TF:
                                                                    636 mL
                                                                    200 mL
   IVF:
                                                                  1,145 mL
                                                                    116 mL
   Blood products:
   Total out:
                                                                    896 mL
                                                                     14 mL
   Urine:
                                                                     66 mL
                                                                     14 mL
   NG:
                                                                    110 mL
   Stool:
   Drains:
   Balance:
                                                                  1,015 mL
                                                                    361 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 375 (321 - 404) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 82
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: 7.32/30/154/17/-9
   Ve: 12 L/min
   PaO2 / FiO2: 308
   Physical Examination
   Gen: intubated
   CV: irregularly irregular
   Resp: Rhonchorous b/l
   Abd: distended, nontender, hypoactive BS
   Ext: anasarcous, skin is jaundiced, bruising b/l in LE
   Labs / Radiology
   73 K/uL
   10.1 g/dL
   138 mg/dL
   3.3 mg/dL
   17 mEq/L
   3.6 mEq/L
   82 mg/dL
   110 mEq/L
   138 mEq/L
   29.8 %
   18.7 K/uL
        [image002.jpg]
                             [**2181-10-17**]  03:05 PM
                             [**2181-10-18**]  04:25 AM
                             [**2181-10-18**]  04:53 AM
                             [**2181-10-18**]  01:16 PM
                             [**2181-10-19**]  03:27 AM
                             [**2181-10-19**]  04:04 AM
                             [**2181-10-19**]  02:24 PM
                             [**2181-10-19**]  05:05 PM
                             [**2181-10-20**]  03:30 AM
                             [**2181-10-20**]  04:04 AM
   WBC
   23.8
   18.0
   18.7
   Hct
   32.1
   29.1
   29.8
   Plt
   153
   91
   73
   Cr
   3.0
   3.3
   3.3
   TCO2
   17
   17
   16
   17
   15
   16
   16
   Glucose
   [**Telephone/Fax (3) 10308**]38
   Other labs: PT / PTT / INR:21.4/39.1/2.0, CK / CKMB /
   Troponin-T:100/5/0.11, ALT / AST:580/346, Alk Phos / T Bili:744/19.5,
   Amylase / Lipase:243/383, Differential-Neuts:90.0 %, Band:2.0 %,
   Lymph:6.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:514 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.0 g/dL, LDH:405 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.6 mg/dL, PO4:4.7 mg/dL
   Imaging: cxr ([**2181-10-19**])
   Increasing perihilar opacification in the left lung is probably due to
   resolving edema or redistribution of pleural fluid since pneumonia
   should not
   clear that quickly. Substantial bibasilar opacification remains and
   could be
   atelectasis or pneumonia. Moderate right pleural effusion stable. Heart
   size
   normal. ET tube, right internal jugular line are in standard
   placements,
   unchanged. The transvenous right ventricular lead, which is inclined
   upward is unchanged in position and a nasogastric tube passes into the
   stomach and
   out of view.
   Microbiology: [**2181-10-16**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2181-10-15**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2181-10-15**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2181-10-15**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2181-10-14**]  Blood (CMV AB) CMV IgG ANTIBODY-FINAL; CMV IgM
   ANTIBODY-FINAL INPATIENT
   [**2181-10-13**]  BRONCHOALVEOLAR LAVAGE GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-FINAL {STAPH AUREUS COAG +} INPATIENT
   [**2181-10-13**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2181-10-13**]  BLOOD CULTURE Blood Culture, Routine-FINAL {STAPHYLOCOCCUS,
   COAGULASE NEGATIVE, STAPHYLOCOCCUS, COAGULASE NEGATIVE}; Aerobic Bottle
   Gram Stain-FINAL; Anaerobic Bottle Gram Stain-FINAL INPATIENT
   [**2181-10-13**]  MRSA SCREEN MRSA SCREEN-FINAL {POSITIVE FOR METHICILLIN
   RESISTANT STAPH AUREUS} INPATIENT
   [**2181-10-13**]  URINE URINE CULTURE-FINAL {ESCHERICHIA COLI, ENTEROCOCCUS
   SP.} INPATIENT
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ACIDOSIS, METABOLIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPOTHERMIA
 .H/O ACIDOSIS, RESPIRATORY
 .H/O LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
   81 yof with intrahepatic cholestasis and sepsis from urinary or lung
   source, continuing a. fib with RVR and worsening renal function.
   # Shock: continued septic shock requiring vasopressin support with MRSA
   pneumonia vs. urosepsis as infective source.
    - continue meropenem (E.Coli) and vancomycin (Enterococcus and MRSA)
    - continue pressor to maintain MAP > 65
    - continue digoxin 0.0625 mg / day per pharmacy
   #Hypoxic Respiratory failure: patient with bilateral large effusions
   and underlying MRSA pneumonia and unchanged disease demonstrated by
   serial CXR
    - continue PSV with goal of [**11-1**] and consider SBT
 d/w family
   possible CMO with trial of extubation
    - continue vancomycin for MRSA pneumonia
   #  Elevated LFT
s: AST/ALT continue to trend down while AP/LDH and
   TBili continue to remain constant representing intrahepatic cholestasis
   with now resolving component of shock liver
    - continue to trend LFT
s and consider ERCP if patient becomes more
   stable
   # Acute renal failure- likely hemodynamic in origin do to poor
   perfusion
   - renally dose all meds
 vancomycin 500 q day and dosed per levels
   - family/patient would not want CVVH, however not CMO at this point
   #  Atrial Fibrillation: Pt continued in afib with RVR now s/p digoxin
   load
   - continue digoxin 0.0625 daily for afib per pharamcy
   - continue to trend INR now 2.0
 consider restarting anticoagulation
   for atrial fibrillation
   - consider fentanyl boluses to treat a. fib RVR
   # Skin: diffuse anasarca with weeping skin and significant risk of skin
   sloughing
   - f/u wound care recommendations
   # Diastolic Heart Failure: continue holding BB and lasix given
   hemodynamic instability.
   # FEN: holding IVF given anuria with diffuse anasarca, replete
   electrolytes PRN
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2181-10-20**] 12:04 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2181-10-13**] 08:35 PM
   Arterial Line - [**2181-10-13**] 09:43 PM
   Prophylaxis:
   DVT: (none)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2181-10-21 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Switched digoxin to NG
   -attempted SBT yesterday-->did well, good sats, but tired out and
   became tachypnic, gas not great. put back on old settings
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2181-10-18**] 08:00 PM
   Meropenem - [**2181-10-20**] 09:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-21**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 104 (103 - 136) bpm
   BP: 104/53(71) {80/44(56) - 153/71(101)} mmHg
   RR: 22 (21 - 32) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 78 kg (admission): 63.6 kg
   Height: 62 Inch
    CVP: 7 (6 - 61)mmHg
   Total In:
                                                                  1,369 mL
                                                                    331 mL
   PO:
   TF:
                                                                    721 mL
                                                                    216 mL
   IVF:
                                                                    487 mL
                                                                    115 mL
   Blood products:
   Total out:
                                                                    159 mL
                                                                     90 mL
   Urine:
                                                                    159 mL
                                                                     90 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,210 mL
                                                                    241 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 380 (345 - 392) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 123
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: 7.34/28/103/13/-8
   Ve: 9 L/min
   PaO2 / FiO2: 206
   Physical Examination
   gen: intubated, jaundiced
   cv: rrr
   resp: cta anteriorly
   abd: soft
   ext: anasarca
   Labs / Radiology
   59 K/uL
   9.9 g/dL
   172 mg/dL
   3.3 mg/dL
   13 mEq/L
   3.5 mEq/L
   87 mg/dL
   111 mEq/L
   139 mEq/L
   30.0 %
   18.6 K/uL
        [image002.jpg]
                             [**2181-10-18**]  01:16 PM
                             [**2181-10-19**]  03:27 AM
                             [**2181-10-19**]  04:04 AM
                             [**2181-10-19**]  02:24 PM
                             [**2181-10-19**]  05:05 PM
                             [**2181-10-20**]  03:30 AM
                             [**2181-10-20**]  04:04 AM
                             [**2181-10-20**]  08:39 AM
                             [**2181-10-20**]  04:05 PM
                             [**2181-10-21**]  04:34 AM
   WBC
   18.0
   18.7
   18.6
   Hct
   29.1
   29.8
   30.0
   Plt
   91
   73
   59
   Cr
   3.3
   3.3
   3.3
   TCO2
   16
   17
   15
   16
   16
   17
   16
   Glucose
   189
   148
   138
   172
   Other labs: PT / PTT / INR:21.3/38.9/2.0, CK / CKMB /
   Troponin-T:100/5/0.11, ALT / AST:143/156, Alk Phos / T Bili:912/22.4,
   Amylase / Lipase:114/106, Differential-Neuts:90.0 %, Band:2.0 %,
   Lymph:6.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:514 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.3 g/dL, LDH:331 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.7 mg/dL
   Microbiology: URINE CULTURE-FINAL {ESCHERICHIA COLI s to [**Last Name (un) 614**],
   ENTEROCOCCUS SP s to vanc
   MRSA from resp cultures
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ACIDOSIS, METABOLIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPOTHERMIA
 .H/O ACIDOSIS, RESPIRATORY
 .H/O LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
   81 yof with intrahepatic cholestasis and sepsis from urinary or lung
   source, continuing a. fib with RVR and worsening renal function.
   # Shock: continued septic shock requiring vasopressin support with MRSA
   pneumonia vs. urosepsis as infective source.
    - continue meropenem (E.Coli) and vancomycin (Enterococcus and MRSA)
    - continue pressor to maintain MAP > 65
   #Hypoxic Respiratory failure: patient with bilateral large effusions
   and underlying MRSA pneumonia and unchanged disease demonstrated by
   serial CXR
    - no sbt today as rsbi 123
   - continue vancomycin for MRSA pneumonia
   -pulm edema seems stable despite no UOP.
    # Acute renal failure- likely ATN due to poor perfusion. Cr does not
   appear to be rising
   - renally dose all meds
 vancomycin 500 q day and dosed per levels
   - family/patient would not want CVVH, however not CMO at this point
   #  Elevated LFT
s: AST/ALT continue to trend down while AP/LDH and
   TBili continue to remain constant representing intrahepatic cholestasis
   with now resolving component of shock liver
    - continue to trend LFT
s and consider ERCP if patient becomes more
   stable
   #  Atrial Fibrillation: Pt continued in afib with RVR now s/p digoxin
   load
   - continue digoxin 0.0625 daily for afib per pharmacy. Will check level
   this morning. Could consider dc dig as does not seem to be helping her
   rate at all
   - continue to trend INR now 2.0
 could consider restarting
   anticoagulation for atrial fibrillation
   - fentanyl boluses seem to help inconsistently
   # Skin: diffuse anasarca with weeping skin and significant risk of skin
   sloughing
   - f/u wound care recommendations
   # Diastolic Heart Failure: continue holding BB and lasix given
   hemodynamic instability.
    # FEN: holding IVF given anuria with diffuse anasarca, replete
   electrolytes PRN
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2181-10-21**] 04:01 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2181-10-13**] 08:35 PM
   Arterial Line - [**2181-10-13**] 09:43 PM
   Prophylaxis:
   DVT: (no dvt ppx)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (chemical code ok)
   Disposition:

2181-10-22 07:15:00 Physician Resident Progress Note
Chief Complaint: 81 yof with h/o atrial fibrilation with diastolic HF
   admitted with grossly abnormal LFT's in setting sepsis from  UTI
   (E.coli and Entrococcus) and MRSA pneumonia, now anuric.
   24 Hour Events:
   - continued progressive thrombocytopenia [**Medical Record Number 10338**] - 59
   - 52
   - continued afib with RVR in setting of digoxin, treated with fluid
   bolus with marginal improvement, treated with fentanyl increase with
   marginal response
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2181-10-21**] 08:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Fentanyl - [**2181-10-22**] 03:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-22**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.1
C (96.9
   HR: 126 (105 - 143) bpm
   BP: 123/67(88) {84/45(57) - 130/70(93)} mmHg
   RR: 19 (14 - 26) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78 kg (admission): 63.6 kg
   Height: 62 Inch
    CVP: 8 (5 - 11)mmHg
   Total In:
                                                                  1,485 mL
                                                                    315 mL
   PO:
   TF:
                                                                    720 mL
                                                                    206 mL
   IVF:
                                                                    615 mL
                                                                    110 mL
   Blood products:
   Total out:
                                                                    145 mL
                                                                     55 mL
   Urine:
                                                                    145 mL
                                                                     55 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,340 mL
                                                                    260 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 378 (373 - 444) mL
   PS : 10 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 70
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///14/
   Ve: 7 L/min
   Physical Examination
   General: NAD, opens eyes to name, does not follow commands
   Lungs: coarse crackles bilateral
   Heart: irregular and tachycardic, no MRG
   Abdomen: soft, ND, hypoactive BS
   Extremities: diffuse anasarca with weeping skin
   Labs / Radiology
   52 K/uL
   9.8 g/dL
   171 mg/dL
   4.1 mg/dL
   14 mEq/L
   3.3 mEq/L
   93 mg/dL
   112 mEq/L
   139 mEq/L
   30.3 %
   16.8 K/uL
        [image002.jpg]
                             [**2181-10-19**]  03:27 AM
                             [**2181-10-19**]  04:04 AM
                             [**2181-10-19**]  02:24 PM
                             [**2181-10-19**]  05:05 PM
                             [**2181-10-20**]  03:30 AM
                             [**2181-10-20**]  04:04 AM
                             [**2181-10-20**]  08:39 AM
                             [**2181-10-20**]  04:05 PM
                             [**2181-10-21**]  04:34 AM
                             [**2181-10-22**]  04:09 AM
   WBC
   18.0
   18.7
   18.6
   16.8
   Hct
   29.1
   29.8
   30.0
   30.3
   Plt
   91
   73
   59
   52
   Cr
   3.3
   3.3
   3.3
   4.1
   TCO2
   17
   15
   16
   16
   17
   16
   Glucose
   189
   148
   138
   172
   171
   Other labs: PT / PTT / INR:21.3/38.9/2.0, CK / CKMB /
   Troponin-T:100/5/0.11, ALT / AST:143/156, Alk Phos / T Bili:912/22.4,
   Amylase / Lipase:114/106, Differential-Neuts:90.0 %, Band:2.0 %,
   Lymph:6.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:514 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.3 g/dL, LDH:331 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.5 mg/dL, PO4:5.0 mg/dL
   Imaging
   - CXR [**10-21**]: worsening L airspace opacifications c/w evolving pneumonia
   with moderate L and small R layering effusions
   Assessment and Plan
   81 yof with intrahepatic cholestasis and sepsis from urinary or lung
   source, continuing a. fib with RVR and continued anuric renal failure.
   # Shock: continued septic shock requiring vasopressin support with MRSA
   pneumonia vs. urosepsis as infective source.
    - continue meropenem (E.Coli) and vancomycin (Entrococcus and MRSA)
    - continue pressor to maintain MAP > 65
   #Hypoxic Respiratory failure: patient with bilateral large effusions
   and underlying MRSA pneumonia and unchanged disease demonstrated by
   serial CXR
   - continue antibiotics as documented above
   - limit IVF in setting of anuric renal failure
    # Acute renal failure: likely ATN due to poor perfusion with rising
   Cr, now 4.1
   - continue to renally dose all medications
   - CVVH and HD considered, however not c/w longterm GOC per family
   # Thrombocytopenia: rapidly dropping platelet count [**Medical Record Number 10339**] - 59
 52.  Considerations include synthetic dysfunction, HIT,
   splenic sequestration, drug induced
   - continue to trend platelets
   - consider antibiotic holiday with daily re-addition to evaluate for
   drug induced thrombocytopenia
   #  Elevated LFT
s: AST/ALT continue to trend down while AP/LDH and
   TBili continue to remain constant representing intrahepatic cholestasis
   or obstructive picture with now resolving component of shock liver
    - continue to trend LFT
s and consider ERCP if patient becomes more
   stable
   #  Atrial Fibrillation: Pt continued in afib with RVR now s/p digoxin
   load
   - consider increasing digoxin as no improvement in afib with RVR s/p
   load
 will titrate to effect
   # Skin: diffuse anasarca with weeping skin and significant risk of skin
   sloughing
   - f/u wound care recommendations
   # Diastolic Heart Failure: continue holding BB and lasix given
   hemodynamic instability.
    # FEN: holding IVF given anuria with diffuse anasarca, replete
   electrolytes PRN, tube feeds
   # Access
 central line placed on [**10-13**], arterial line placed on [**10-13**]
   # Prophylaxis: HOB elevation, lansoprazole
   # Communication
 son
   # Code
 DNR
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2181-10-21**] 04:01 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2181-10-13**] 08:35 PM
   Arterial Line - [**2181-10-13**] 09:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2181-10-23 06:32:00 Physician Resident Progress Note
Chief Complaint: 81 yof with h/o atrial fibrilation with diastolic HF
   admitted with grossly abnormal LFT's in setting sepsis from  UTI
   (E.coli and Entrococcus) and MRSA pneumonia, now anuric.
   24 Hour Events:
   -family meeting: treatment options discussed and possibility of CMO
   introduced, family to discuss
   -digoxin increased to 0.125 mg with HR response now low 100's
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2181-10-22**] 08:00 AM
   Vancomycin - [**2181-10-22**] 08:30 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Fentanyl - [**2181-10-23**] 04:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-23**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.1
C (96.9
   HR: 94 (94 - 137) bpm
   BP: 107/53(71) {92/46(61) - 143/70(96)} mmHg
   RR: 20 (16 - 29) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 82.3 kg (admission): 63.6 kg
   Height: 62 Inch
    CVP: 10 (10 - 10)mmHg
   Total In:
                                                                  1,918 mL
                                                                    288 mL
   PO:
   TF:
                                                                    720 mL
                                                                    196 mL
   IVF:
                                                                  1,118 mL
                                                                     92 mL
   Blood products:
   Total out:
                                                                    140 mL
                                                                     45 mL
   Urine:
                                                                    140 mL
                                                                     45 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,778 mL
                                                                    243 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 333 (333 - 487) mL
   PS : 10 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.35/27/119/14/-8
   Ve: 9.5 L/min
   PaO2 / FiO2: 238
   Physical Examination
   General: NAD, opens eyes to name but unable to follow commands
   Lungs: diffuse crackles unchanged from prior
   Heart: irregular, tachycardic
   Abdomen: soft, NTND, no masses
   Extremities: jaundice, 4+ peripheral edema with weeping skin
   Labs / Radiology
   74 K/uL
   9.5 g/dL
   141 mg/dL
   4.5 mg/dL
   14 mEq/L
   3.5 mEq/L
   102 mg/dL
   112 mEq/L
   139 mEq/L
   29.2 %
   16.3 K/uL
        [image002.jpg]
                             [**2181-10-19**]  02:24 PM
                             [**2181-10-19**]  05:05 PM
                             [**2181-10-20**]  03:30 AM
                             [**2181-10-20**]  04:04 AM
                             [**2181-10-20**]  08:39 AM
                             [**2181-10-20**]  04:05 PM
                             [**2181-10-21**]  04:34 AM
                             [**2181-10-22**]  04:09 AM
                             [**2181-10-23**]  04:03 AM
                             [**2181-10-23**]  04:32 AM
   WBC
   18.7
   18.6
   16.8
   16.3
   Hct
   29.8
   30.0
   30.3
   29.2
   Plt
   73
   59
   52
   74
   Cr
   3.3
   3.3
   4.1
   4.5
   TCO2
   15
   16
   16
   17
   16
   16
   Glucose
   148
   138
   172
   171
   144
   141
   Other labs: PT / PTT / INR:21.3/38.9/2.0, CK / CKMB /
   Troponin-T:100/5/0.11, ALT / AST:143/156, Alk Phos / T Bili:912/22.4,
   Amylase / Lipase:114/106, Differential-Neuts:90.0 %, Band:2.0 %,
   Lymph:6.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:514 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.3 g/dL, LDH:331 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.6 mg/dL, PO4:5.2 mg/dL
   Microbiology
   - urine [**10-13**]: E.coli  and Enterococcus (vancomycin)
   - BAL [**10-13**]: MRSA
   - urine and blood 9/21: negative
   Imaging
   - CXR [**10-22**]: improving airspace opacities in left mid and lower lung
   which may be do to improving pneumonia, dense opacification in right
   perihilar and retrocardiac area and bilateral pleural effusions
   unchanged
   Assessment and Plan
   81 yof with intrahepatic cholestasis and sepsis from urinary and / or
   lung source, continuing a.fib with RVR and continued anuric renal
   failure.
   # Shock: continued septic shock state requiring vasopressin support
   with MRSA pneumonia vs. urosepsis as infective source.
    - continue broad spectrum continue meropenem (E.Coli) and vancomycin
   (Entrococcus and MRSA) - started on [**10-14**]
    - continue pressor to maintain MAP > 65
   #Hypoxic Respiratory failure: patient with bilateral large effusions
   and underlying MRSA pneumonia and unchanged disease demonstrated by
   serial CXR
   - continue antibiotics as documented above
   - limit IVF in setting of anuric renal failure
    # Acute renal failure: likely ATN due to poor perfusion with rising
   Cr, now 4.5
   - continue to renal dosing all medications
   - CVVH and HD considered, however not c/w longterm GOC per family
   # Thrombocytopenia: initially rapidly dropping platelet count with most
   recent level stabilized, likely representing drug induced
   thrombocytopenia.
   - continue to trend platelets
   - may consider pulling off Meropenum or  switching from Vancomycin to
   Daptomycin but difficult as patient still has septic shock physiology
   requiring pressors
   #  Elevated LFT
s: AST/ALT continue to trend down while AP/LDH and
   TBili continue to remain constant representing intrahepatic cholestasis
   or obstructive picture with now resolving component of shock liver.
    - re-consult liver now to evaluate continued LFT abnormalities
 would
   recommend MRCP vs. transjugular biopsy but unsure if it would
   ultimately change patient management
    - consider MRCP to evaluate for CBD obstruction in setting of elevated
   AP and TB
   #  Atrial Fibrillation: Pt continued in afib with RVR now s/p digoxin
   increased digoxin dose to 0.125
    - improved rate control on high digoxin dose
 continue to titrate
   digoxin dose to effect
   # Skin: diffuse anasarca with weeping skin and significant risk of skin
   sloughing
   - f/u wound care recommendations
   # Diastolic Heart Failure: continue holding BB and lasix given
   hemodynamic instability and renal failure.
   # FEN: holding IVF given anuria with diffuse anasarca, replete
   electrolytes PRN, tube feeds
   # Access
 central line placed on [**10-13**], arterial line placed on [**10-13**]
   # Prophylaxis: HOB elevation, lansoprazole
   # Communication
 son
   # Code
 DNR
 family called and would like no escalation of care today
   with likely CMO and withdrawal of care this evening once family arrives
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2181-10-22**] 07:59 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2181-10-13**] 08:35 PM
   Arterial Line - [**2181-10-13**] 09:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2181-10-24 06:13:00 Physician Resident Progress Note
Chief Complaint: 81 yof with h/o atrial fibrilation with diastolic HF
   admitted with grossly abnormal LFT's in setting sepsis from  UTI
   (E.coli and Entrococcus) and MRSA pneumonia, now in anuric renal
   failure.
   24 Hour Events:
   Family meeting yesterday: no more escelation of care, will likely
   become CMO today
   Wound care: moisture barrier ointment on skin to protect from
   maceration, first step mattress with low air loss
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2181-10-22**] 08:30 AM
   Meropenem - [**2181-10-23**] 08:15 AM
   Infusions:
   Vasopressin - 1.5 units/hour
   Other ICU medications:
   Fentanyl - [**2181-10-24**] 03:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-24**] 06:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 99 (93 - 117) bpm
   BP: 116/60(77) {93/46(61) - 132/63(86)} mmHg
   RR: 22 (15 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.3 kg (admission): 63.6 kg
   Height: 62 Inch
             Total In:
                                                                    898 mL
                                                                     58 mL
   PO:
             TF:
                                                                    491 mL
   IVF:
                                                                    406 mL
                                                                     58 mL
   Blood products:
   Total out:
                                                                    265 mL
                                                                     60 mL
   Urine:
                                                                    265 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    633 mL
                                                                     -2 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 426 (351 - 450) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 53
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: ////
   Ve: 9.2 L/min
   Physical Examination
   General: NAD
   Lungs: light crackles bilateral
   Heart: irregular, normal rate, no MRG
   Abdomen: soft, ND
   Extremities: diffuse anasarca, weeping skin, WWP, DP 2+
   Labs / Radiology
   74 K/uL
   9.5 g/dL
   141 mg/dL
   4.5 mg/dL
   14 mEq/L
   3.5 mEq/L
   102 mg/dL
   112 mEq/L
   139 mEq/L
   29.2 %
   16.3 K/uL
        [image002.jpg]
                             [**2181-10-19**]  02:24 PM
                             [**2181-10-19**]  05:05 PM
                             [**2181-10-20**]  03:30 AM
                             [**2181-10-20**]  04:04 AM
                             [**2181-10-20**]  08:39 AM
                             [**2181-10-20**]  04:05 PM
                             [**2181-10-21**]  04:34 AM
                             [**2181-10-22**]  04:09 AM
                             [**2181-10-23**]  04:03 AM
                             [**2181-10-23**]  04:32 AM
   WBC
   18.7
   18.6
   16.8
   16.3
   Hct
   29.8
   30.0
   30.3
   29.2
   Plt
   73
   59
   52
   74
   Cr
   3.3
   3.3
   4.1
   4.5
   TCO2
   15
   16
   16
   17
   16
   16
   Glucose
   148
   138
   172
   171
   144
   141
   Other labs: PT / PTT / INR:21.3/38.9/2.0, CK / CKMB /
   Troponin-T:100/5/0.11, ALT / AST:143/156, Alk Phos / T Bili:912/22.4,
   Amylase / Lipase:114/106, Differential-Neuts:90.0 %, Band:2.0 %,
   Lymph:6.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:514 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.3 g/dL, LDH:331 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.6 mg/dL, PO4:5.2 mg/dL
   Imaging
   - no new imaging
   New Microbiology
   - none
   Old Microbiology
   - urine [**10-13**]: E.coli  and Enterococcus (vancomycin)
   - BAL [**10-13**]: MRSA
   - urine and blood 9/21: negative
   Assessment and Plan
   81 yof with intrahepatic cholestasis and sepsis from urinary and / or
   lung source, continuing a.fib with RVR and continued anuric renal
   failure.
   # Shock: continued septic shock state requiring vasopressin support
   with MRSA pneumonia vs. urosepsis as infective source.
    - continue broad spectrum continue meropenem (E.Coli) and vancomycin
   (Entrococcus and MRSA) - started on [**10-14**]
    - continue pressor to maintain MAP > 65
   #Hypoxic Respiratory failure: patient with bilateral large effusions
   and underlying MRSA pneumonia and unchanged disease demonstrated by
   serial CXR
   - continue antibiotics as documented above
   - limit IVF in setting of anuric renal failure
    # Acute renal failure: likely ATN due to poor perfusion with rising
   Cr, now 4.5, remains 24.5 liters positive for [**Location **] continue renal dosing all medications
   - CVVH and HD considered, however not c/w longterm GOC per family
   # Thrombocytopenia: initially rapidly dropping platelet count with most
   recent level stabilized, likely representing drug induced
   thrombocytopenia.
   - continue to trend platelets
   - may consider pulling off Meropenum or  switching from Vancomycin to
   Daptomycin but difficult as patient still has septic shock physiology
   requiring pressors
   #  Elevated LFT
s: AST/ALT continue to trend down while AP/LDH and
   TBili continue to remain constant representing intrahepatic cholestasis
   or obstructive picture with now resolving component of shock liver.
   Liver suggested the next steps in investigating these abnormalities
   would include an MRCP to r/o obstruction or an transjugular liver
   biopsy.
    - consider MRCP to evaluate for CBD obstruction in setting of elevated
   AP and TB
 however patient has pacemaker
   #  Atrial Fibrillation: Pt continued in afib with RVR now s/p digoxin
   increased dose to 0.125
    - improved rate control on high digoxin dose
 continue to titrate
   digoxin dose to effect
   # Skin: diffuse anasarca with weeping skin and significant risk of skin
   sloughing
   - continue to moisturize skin to prevent maceration and continue air
   mattress
   # FEN: holding IVF given anuria with diffuse anasarca, replete
   electrolytes PRN, continue tube feeds
   # Access
 central line placed on [**10-13**], arterial line placed on [**10-13**]
   # Prophylaxis: HOB elevation, lansoprazole
   # Communication
 son
   # Code
 DNR
 family called and would like no escalation of care today
   with likely CMO and withdrawal of care today
   # Disposition
 ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2181-10-13**] 08:35 PM
   Arterial Line - [**2181-10-13**] 09:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:
   ------ Protected Section ------
   Critical Care
   After family discussion made CMO and extubated. We are maintaining
   comfort with iv morphine. No evidence of breathlessness or pain.
   Time spent 35 min
   Critically ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 56**] [**Last Name (NamePattern1) 37**], MD
   on:[**2181-10-24**] 19:06 ------